US07884234B2
(4) Preparation of N-[4-(tert-butyl)benzyl]-N-(4′-methoxybiphenyl-4-yl)oxamic Acid (Compound No. 4)
A mixture of methyl N-[4-(tert-butyl)benzyl]-N-(4′-methoxybiphenyl-4-yl)oxamate (230 mg, 0.533 mmol), methanol (1.5 ml), 2N aqueous sodium hydroxide (0.8 ml) and tetrahydrofuran (1.5 ml) was stirred at room temperature for 10 minutes. The reaction mixture was adjusted to pH 5-6 by addition of 2N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (160 mg, 71.9%) as a white solid.

reactant | methyl N-[4-(tert-butyl)benzyl]-N-(4′-methoxybiphenyl-4-yl)oxamate | 0.533 mmol, 230 mg | C(C)(C)(C)C1=CC=C(CN(C(C(=O)OC)=O)C2=CC=C(C=C2)C2=CC=C(C=C2)OC)C=C1 | C27H29NO4
reactant | methanol | 1.5 ml | CO | CH4O
reactant | sodium hydroxide | 2N, 0.8 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | N-[4-(tert-butyl)benzyl]-N-(4′-methoxybiphenyl-4-yl)oxamic Acid | 160 mg, 71.9% | C(C)(C)(C)C1=CC=C(CN(C(C(=O)O)=O)C2=CC=C(C=C2)C2=CC=C(C=C2)OC)C=C1 | C26H27NO4
